US06197975B1
Step 2.1E pyrrolidine-1-carboxylic acid (2-(3,5-dimethylphenyl)-3-{2-[4-(4-methanesulfonylaminophenyl)butylamino]ethyl}-1H-indol-5-yl)amide
To a stirred solution of pyrrolidine-1-carboxylic acid [3-(2-{benzyl-[4-(4-methanesulfonylaminophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-amide (16 mg in a mixture of 1 mL tetrahydrofuran and 3 mL methanol) was added 15 mg of 10% palladium hydroxide on carbon catalyst followed by acetic acid (0.015 mL of a 30% solution in water). The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 25 minutes the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (methylene chloride:methanol:ammonium hydroxide, 90:8:1) gave the title compound (14 mg). m/e=602 (M+H)

reactant | pyrrolidine-1-carboxylic acid [3-(2-{benzyl-[4-(4-methanesulfonylaminophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-amide | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)NC(=O)N1CCCC1)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)NS(=O)(=O)C | C41H49N5O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 15 mg | [OH-].[OH-].[Pd+2]
solvent | water | O | H2O
product | pyrrolidine-1-carboxylic acid (2-(3,5-dimethylphenyl)-3-{2-[4-(4-methanesulfonylaminophenyl)butylamino]ethyl}-1H-indol-5-yl)amide | 14 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=C(C=C1)NS(=O)(=O)C)NC(=O)N1CCCC1 | C34H43N5O3S
